US05242945
To a stirring solution of 1.6 g (16 mmol) of tetronic acid in 75 mL of methylene chloride is added 2.5 mL (17.86 mmol) of triethylamine and 640 mg of 4-dimethylaminopyridine at 0° C. Next, 5.0 g (17.6 mmol) of stearoyl chloride is added and the reaction is stirred overnight at room temperature. The reaction is acidified with 1.0N HCl and extracted with two 100 mL portions of methylene chloride. The combined organic layers are dried over MgSO4 and concentrated in vacuo affording crude compound. Pure material was obtained by trituration with ethyl acetate as affording 3.3 g (58%) of 4-hydroxy-3-(1-oxooctadecyl)-2(5H)-furanone.

reactant | tetronic acid | 16 mmol, 1.6 g | C1C(=O)COC1=O | C4H4O3
reactant | triethylamine | 17.86 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
reactant | stearoyl chloride | 17.6 mmol, 5.0 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | HCl | 1.0N | Cl | ClH
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 640 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-hydroxy-3-(1-oxooctadecyl)-2(5H)-furanone | 3.3 g, 58% | OC1=C(C(OC1)=O)C(CCCCCCCCCCCCCCCCC)=O | C22H38O4
